US08791255B2
The product is prepared according to the procedure described in example 5, using 350 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 177 mg of 4-azaindoline and 340 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 216 μl of pyridine and 6.5 ml of N,N-dimethylformamide. 252 mg of 2-[2-(2,3-dihydro-1H-pyrrolo[3,2-b]pyridin-1-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one are obtained in the form of a white powder, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 350 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 4-azaindoline | 177 mg | N1CCC2=NC=CC=C12 | C7H8N2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 340 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 216 μl | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 6.5 ml | CN(C=O)C | C3H7NO
product | 2-[2-(2,3-dihydro-1H-pyrrolo[3,2-b]pyridin-1-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one | 252 mg | N1(CCC2=NC=CC=C21)C(CC2=NC(=CC(N2)=O)N2CCOCC2)=O | C17H19N5O3
